US04636516
By following the same procedure as in Example 10 using 1.8 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-thioxo-4-imidazoline, 30 ml of dry acetone, 0.99 g of potassium carbonate, and 1.3 g of ethyl α-bromopropionate and recrystallizing the product from a mixture of toluene and cyclohexane, 0.95 g of ethyl 2-[4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-imidazolylthio]propionate was obtained.

reactant | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-thioxo-4-imidazoline | 1.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1)=S | C17H24N2OS
reactant | potassium carbonate | 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl α-bromopropionate | 1.3 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | ethyl 2-[4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-imidazolylthio]propionate | 0.95 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(NC1)SC(C(=O)OCC)C | C22H32N2O3S
